US08048937B2
In a 4 l reaction vessel equipped with a stirrer, dropping funnel, thermometer and reflux condenser, 74.7 g of polycaprolactone (Capa 212 from Solvay, molar mass=1000 g/mol, OH number=113 mg KOH/g), 26.35 g of 1,2-ethanediol, 69.66 g of hydroxyethyl acrylate, 26.8 g of dimethylolpropionic acid, 0.088 g of 2,6-di-t-butyl-4-methylphenol and 0.047 g of hydroquinone monomethyl ether were stirred at a bath temperature of 75° C. Over the course of 60 minutes, 231.8 g of allophanate-modified polyisocyanate formed from hexamethylene 1,6-diisocyanate and 2-ethylhexanol (NCO content=17.2%, viscosity approximately 300 mPas) and 131 g of bis(4,4′-isocyanatocyclohexyl)methane were added dropwise. When the feed was at an end, 100 g of acetone were metered in. After 90 minutes 0.29 g of dibutyltin dilaurate was added dropwise. At an NCO content of 1.21% the batch was diluted with 201.97 g of acetone and neutralized with 76 g of 10% strength aqueous sodium hydroxide solution. Over the course of 20 minutes, 784.24 g of water were introduced dropwise into the polymer solution with stirring. Thereafter the acetone was distilled off under reduced pressure and the batch was diluted with 157.89 g of water.

reactant | hydroxyethyl acrylate | 69.66 g | C(C=C)(=O)OCCO | C5H8O3
reactant | dimethylolpropionic acid | 26.8 g | C(O)C(C(=O)O)(C)CO | C5H10O4
reactant | 2,6-di-t-butyl-4-methylphenol | 0.088 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | hydroquinone monomethyl ether | 0.047 g | COC1=CC=C(O)C=C1 | C7H8O2
reactant | allophanate | 231.8 g | C(NC(=O)N)(=O)[O-]
solvent | 1,2-ethanediol | 26.35 g | C(CO)O | C2H6O2
product | 2-ethylhexanol | C(C)C(CO)CCCC | C8H18O
